### PR TITLE
chore: generalize List.Perm.take

### PR DESCRIPTION
**Pull request by kim-em**
Thanks @b-mehta for these generalizations.

### CODE REVIEW

File: src/Init/Data/List/Nat/Perm.lean [hunk 1]
```diff
@@ -57,16 +57,16 @@ theorem set_set_perm {as : List α} {i j : Nat} (h₁ : i < as.length) (h₂ : j
 namespace Perm
 
 /-- Variant of `List.Perm.take` specifying the the permutation is constant after `i` elementwise. -/
-theorem take' {l₁ l₂ : List α} (h : l₁ ~ l₂) {i : Nat} (w : ∀ j, i ≤ j → l₁[j]? = l₂[j]?) :
+theorem take_of_getElem? {l₁ l₂ : List α} (h : l₁ ~ l₂) {i : Nat} (w : ∀ j, i ≤ j → l₁[j]? = l₂[j]?) :
     (l₁.take i) ~ (l₂.take i) := by
```
Comment (b-mehta) [inline src/Init/Data/List/Nat/Perm.lean:61]:
```suggestion
    l₁.take i ~ l₂.take i := by
```

File: src/Init/Data/List/Nat/Perm.lean [hunk 2]
```diff
@@ -57,16 +57,16 @@ theorem set_set_perm {as : List α} {i j : Nat} (h₁ : i < as.length) (h₂ : j
...
-  apply h.take
+  refine h.take (Perm.of_eq ?_)
   ext1 j
   simpa using w (i + j) (by omega)
 
 /-- Variant of `List.Perm.drop` specifying the the permutation is constant before `i` elementwise. -/
-theorem drop' {l₁ l₂ : List α} (h : l₁ ~ l₂) {i : Nat} (w : ∀ j, j < i → l₁[j]? = l₂[j]?) :
+theorem drop_of_getElem? {l₁ l₂ : List α} (h : l₁ ~ l₂) {i : Nat} (w : ∀ j, j < i → l₁[j]? = l₂[j]?) :
     (l₁.drop i) ~ (l₂.drop i) := by
```
Comment (b-mehta) [inline src/Init/Data/List/Nat/Perm.lean:68]:
```suggestion
    l₁.drop i ~ l₂.drop i := by
```

File: src/Init/Data/List/Perm.lean [hunk 3]
```diff
@@ -538,13 +538,19 @@ theorem perm_insertIdx {α} (x : α) (l : List α) {i} (h : i ≤ l.length) :
 
 namespace Perm
 
-theorem take {l₁ l₂ : List α} (h : l₁ ~ l₂) {n : Nat} (w : l₁.drop n = l₂.drop n) :
+theorem take {l₁ l₂ : List α} (h : l₁ ~ l₂) {n : Nat} (w : l₁.drop n ~ l₂.drop n) :
     (l₁.take n) ~ (l₂.take n) := by
```
Comment (b-mehta) [inline src/Init/Data/List/Perm.lean:542]:
```suggestion
    l₁.take n ~ l₂.take n := by
```

File: src/Init/Data/List/Perm.lean [hunk 4]
```diff
@@ -538,13 +538,19 @@ theorem perm_insertIdx {α} (x : α) (l : List α) {i} (h : i ≤ l.length) :
...
-  rwa [← List.take_append_drop n l₁, ← List.take_append_drop n l₂, w, perm_append_right_iff] at h
+  classical
+  rw [perm_iff_count] at h w ⊢
+  rw [← take_append_drop n l₁, ← take_append_drop n l₂] at h
+  simpa only [count_append, w, Nat.add_right_cancel_iff] using h
 
-theorem drop {l₁ l₂ : List α} (h : l₁ ~ l₂) {n : Nat} (w : l₂.take n = l₁.take n) :
+theorem drop {l₁ l₂ : List α} (h : l₁ ~ l₂) {n : Nat} (w : l₁.take n ~ l₂.take n) :
     (l₁.drop n) ~ (l₂.drop n) := by
```
Comment (b-mehta) [inline src/Init/Data/List/Perm.lean:549]:
```suggestion
    l₁.drop n ~ l₂.drop n := by
```

**Review by b-mehta — APPROVED** [review]
